US04371536
0.6 g of 6-amino-4-methyl-β-carbolin-3-carboxylic acid ethyl ester is dissolved in 6 ml of pyridine and 1.5 ml of acetic anhydride and the whole is stirred for 16 hours at room temperature. The mixture is then stirred into 30 ml of ice water and intensely extracted with ethyl acetate. The extracts are washed until neutral with semisaturated common salt solution, dried using sodium sulphate and filtered. The solvent is distilled off in vacuo. The residue (0.78 g) is recrystallized from acetone-diisopropyl ether. 0.49 g of 6-acetamido-4-methyl-β-carbolin-3-carboxylic acid ethyl ester of melting point 273°-278° C. is obtained.

reactant | 6-amino-4-methyl-β-carbolin-3-carboxylic acid ethyl ester | 0.6 g | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1C)N | C15H15N3O2
reactant | acetic anhydride | 1.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | 6-acetamido-4-methyl-β-carbolin-3-carboxylic acid ethyl ester | 0.49 g | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1C)NC(C)=O | C17H17N3O3
